US03931269
A mixture of 0.747 mole of ethyl α-chloro-6-methoxy-2-naphthylglycolate is stirred with 106.67 g. (0.895 mole) of thionyl chloride at room temperature for 24 hours and then heated to reflux for 6 hours. The cold reaction mixture is poured into 1125 ml. of ice-cold water with stirring. The mixture is extracted with 800 ml. of ether. The ethereal solution is washed with 450 ml. of cold saturated sodium hydrocarbonate solution followed by washing twice, each time with 250 ml. of cold water. The ethereal solution is dried over anhydrous sodium sulfate and filtered. The solvent is removed in vacuo to obtain ethyl α-chloro-6-methoxy-2-naphthylacetate.

reactant | ethyl α-chloro-6-methoxy-2-naphthylglycolate | 0.747 mole | ClC(C(=O)OCC)(O)C1=CC2=CC=C(C=C2C=C1)OC | C15H15ClO4
reactant | thionyl chloride | 0.895 mole | S(=O)(Cl)Cl | Cl2OS
product | ethyl α-chloro-6-methoxy-2-naphthylacetate | ClC(C(=O)OCC)C1=CC2=CC=C(C=C2C=C1)OC | C15H15ClO3
